US08236826B2
Production of methyl 3-[4-(5-aminopyridin-2-ylsulfanyl)phenyl]propionate
To a solution of methyl 3-[4-(5-nitropyridin-2-ylsulfanyl)phenyl]propionate (2.97 g, 9.33 mmol) in methanol (50 mL) were added sodium borohydride (0.590 g, 15.6 mmol) and 10% palladium-carbon (1.80 g), and the resulting solution was stirred for 24 hours at room temperature under a hydrogen atmosphere at atmospheric pressure. The reaction solution was filtered through Celite, and to the resulting filtrate was added concentrated hydrochloric acid (1.5 mL), and concentrated under reduced pressure. To the residue was added a saturated sodium bicarbonate solution, and extracted with ethyl acetate, and the ethyl acetate layer was washed with brine. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and evaporated, to thereby yield 2.49 g of the title compound.

reactant | methyl 3-[4-(5-nitropyridin-2-ylsulfanyl)phenyl]propionate | 9.33 mmol, 2.97 g | [N+](=O)([O-])C=1C=CC(=NC1)SC1=CC=C(C=C1)CCC(=O)OC | C15H14N2O4S
reactant | sodium borohydride | 15.6 mmol, 0.590 g | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium-carbon | 1.80 g | [C].[Pd]
product | methyl 3-[4-(5-aminopyridin-2-ylsulfanyl)phenyl]propionate | NC=1C=CC(=NC1)SC1=CC=C(C=C1)CCC(=O)OC | C15H16N2O2S
